US05602253
(vi) 3-(N-tert-butyloxycarbonylaminoethyl)-1-benzhydryl azetidine
The title compound was prepared from 3-aminoethyl-1-benzhydryl azetidine according the procedure for 3-(N-tert-butyloxycarbonylaminomethyl)-1-benzhydryl azetidine, in a yield of 6.5 g (95%).

reactant | 3-aminoethyl-1-benzhydryl azetidine | NCCC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H22N2
reactant | 3-(N-tert-butyloxycarbonylaminomethyl)-1-benzhydryl azetidine | C(C)(C)(C)OC(=O)NCC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C22H28N2O2
product | 3-(N-tert-butyloxycarbonylaminoethyl)-1-benzhydryl azetidine | C(C)(C)(C)OC(=O)NCCC1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C23H30N2O2
